US07179823B1
To a mixture of ethyl 3-[3-ethoxy-1H-pyrazol-4-yl]propionate (318 mg), 4-(4-chloromethylphenoxymethyl)-2-phenyloxazole (450 mg), and N,N-dimethylformamide (10 ml), sodium hydride (60%, oily, 60.0 mg) was added at 0° C., and then the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The obtained colorless crystals were collected by filtration, and ethyl 3-[3-ethoxy-1-[4-(2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate (616 mg, yield: 86%) was obtained. This was recrystallized from ethyl acetate-hexane. Melting point: 80–81° C.

reactant | ethyl 3-[3-ethoxy-1H-pyrazol-4-yl]propionate | 318 mg | C(C)OC1=NNC=C1CCC(=O)OCC | C10H16N2O3
reactant | 4-(4-chloromethylphenoxymethyl)-2-phenyloxazole | 450 mg | ClCC1=CC=C(OCC=2N=C(OC2)C2=CC=CC=C2)C=C1 | C17H14ClNO2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 60.0 mg | [H-].[Na+]
solvent | water | O | H2O
product | ethyl 3-[3-ethoxy-1-[4-(2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | 616 mg, yield: 86% | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1)C1=CC=CC=C1 | C27H29N3O5
